US08563575B2
130c) 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylic acid
To a mixture of methyl 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylate (255 mg) in MeOH (5 mL) was added 1N NaOH (2.54 mL), and the mixture was stirred at 60° C. for 3 h. After MeOH was evaporated, to the water phase was added 1N HCl (pH=ca. 2). The precipitate was collected by filtration to give the title compound (221 mg).

reactant | methyl 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylate | 255 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC(=C1C(=O)OC)C(F)(F)F | C21H17F3N2O3
reactant | NaOH | 1N, 2.54 mL | [OH-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 2-{[4-(benzyloxy)phenyl]amino}-4-(trifluoromethyl)pyridine-3-carboxylic acid | 221 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC1=NC=CC(=C1C(=O)O)C(F)(F)F | C20H15F3N2O3
